US04100278
3.2 g of N-[(1-formyl-2,3,4,5-tetrahydro-[1H]-1-benzazepine-3-yl)-methyl] -formamide were added over 5 minutes to a temperature less than 20° C to a mixture of 3.2 g of lithium aluminum hydride in 60 ml of anhydrous tetrahydrofuran and the mixture was refluxed for an hour and then cooled to 10° C. 20 ml of tetrahydrofuran containing 40% water were added thereto dropwise and the mixture was filtered. The filtrate was washed with methylene chloride and was evaporated to dryness under reduced pressure to obtain 2.5 g of raw product. The latter was taken up in methylene chloride and the solution was washed with water, dried over magnesium sulfate, filtered and evaporated to dryness to obtain 2.5 g of [N, 1-dimethyl-2,3,4,5-tetrahydro-[1H]-1-benzazepine-3-methanamine].

reactant | N-[(1-formyl-2,3,4,5-tetrahydro-[1H]-1-benzazepine-3-yl)-methyl] -formamide | 3.2 g | C(=O)N1CC(CCC2=C1C=CC=C2)CNC=O | C13H16N2O2
reactant | lithium aluminum hydride | 3.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N, 1-dimethyl-2,3,4,5-tetrahydro-[1H]-1-benzazepine-3-methanamine | CNCC1CN(C2=C(CC1)C=CC=C2)C | C13H20N2
